US06858627B2
4-Allylsulfanylmethyl-2,2-dimethyl-6-(2-trifluoromethylphenyl)-1,2-dihydroquinoline
Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester was coupled with 2-trifluoromethylphenylboronic acid. Bromination and coupling reaction with allyl mercaptan gave 23 mg of the title compound.

reactant | Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | 2-trifluoromethylphenylboronic acid | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | allyl mercaptan | C(C=C)S | C3H6S
product | 4-Allylsulfanylmethyl-2,2-dimethyl-6-(2-trifluoromethylphenyl)-1,2-dihydroquinoline | 23 mg | C(C=C)SCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)C(F)(F)F)(C)C | C22H22F3NS
